datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C2=CC=CC=C2)=[O:64])C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C:11](C1=CC=CC=C1)=[NH+:12][C:63](C1=CC=CC=C1)=[O:64])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[N:12]1CC[N:62](C)[C:11]1=[CH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11]2=[N+:12](C)CC[N:62]2C)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[CH:63]=[CH:62]/[CH:11]=[CH2:10].[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>C/[CH:63]=[CH:62]/[CH+:11][CH2:10][CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[OH:10].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].C[OH+:10][S:20]C(F)(F)F 10=20;20,21=21,22;22,23=23"
"CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][B-:63]2(C3=CC=CC=C3)OC(C)(C)C(C)(C)O2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)O1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]2CCC3C4C5C2[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])O1 10,11=10,20;12=11,12;20,21=21"
"C1CCCC[C:11](=[CH2:10])CCCC1.C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2>>C1CCCC[C+:11]([CH2:10][CH:20]([C:31]2=[CH:32][C:33]3=[C:34](OCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]2)CCCC1 10,11=10,20"
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].C[C@H]1[C@@H](C)[O:62][C@@:11](C)([H:10])[O:12]1>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[H:10].C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72])C=C1.F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34]>>F[S:32]([CH-:21][CH2:20][CH:10]([N+:11](=[O:12])[O-:62])[C:71](C1=CC=CC=C1)=[O:72])(=[O:33])=[O:34] 10,11=10,20;12=11,12;20,21=21"
"CC[O:61][C:111]([C-:10]([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CC[O:61][C:111]([C:10]([CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112] 10=20;20,21=21"
"C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[NH:10]2)C=C1.COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1>>COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]([NH+:10]2CCCC2[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.[CH:10]#[C:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C1=CC=C([S:32]([CH-:21][CH2:20][CH:10]=[C+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)(=[O:33])=[O:34])C=C1 10,11=10,20;20,21=21"
"CC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:62]2)C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)C=C1.CC[O:34][C:32]([C:21]([CH:20]([C:10]1=CC=C(C)S1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[S:20]C(F)(F)F)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC[O:72][C:61]([CH-:10][P:81](=[O:82])([O:92]CC)[O:102]CC)=[O:62].C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34]([N:37](C)C)[CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1)[P:81](=[O:82])([O:92]CC)[O:102]CC)=[O:62] 10=20
